US07645756B2
4.0 ml (4.0 mmol) of a dichloromethane solution of 1 M boron tribromide was added to a chloroform solution (10 ml) of 417 mg of 6-(4-methoxyphenyl)-pyrido[3,4-d][1,2,4]triazolo[4,3-b]pyridazine, and then stirred overnight at room temperature. Water was added to the reaction liquid, extracted with chloroform, and the organic layer was washed with saturated saline water. This was dried with anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 421 mg of 4-(pyrido[3,4-d][1,2,4]triazolo[4,3-b]pyridazin-6-yl)-phenol.

reactant | dichloromethane | 4.0 mmol, 4.0 ml | ClCCl | CH2Cl2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 6-(4-methoxyphenyl)-pyrido[3,4-d][1,2,4]triazolo[4,3-b]pyridazine | 417 mg | COC1=CC=C(C=C1)C=1C2=C(C=3N(N1)C=NN3)C=NC=C2 | C15H11N5O
solvent | Water | O | H2O
product | 4-(pyrido[3,4-d][1,2,4]triazolo[4,3-b]pyridazin-6-yl)-phenol | 421 mg | N=1N=CN2N=C(C3=C(C21)C=NC=C3)C3=CC=C(C=C3)O | C14H9N5O
